US08252817B2
(6-Trifluoromethylpyridin-3-yl)-acetic acid ethyl ester
4.23 g (20.6 mmol) (6-trifluoromethylpyridin-3-yl)acetic acid [obtainable from [6-trifluoromethyl)pyridin-3-yl]methanol analogously to the reaction sequence of Examples 37A, 38A and 41] are initially introduced into 200 ml ethanol under argon, 0.2 ml concentrated sulfuric acid are added and the mixture is heated under reflux for 5 h. After cooling, the reaction solution is concentrated, the residue is taken up in ethyl acetate and the mixture is washed with saturated sodium bicarbonate solution. The aqueous phase is re-extracted several times with ethyl acetate and the combined organic phases are dried over sodium sulfate, filtered and concentrated. The residue is purified by means of flash chromatography on silica gel (mobile phase: gradient cyclohexane→cyclohexane/ethyl acetate 1:1).

reactant | (6-trifluoromethylpyridin-3-yl)acetic acid | 20.6 mmol, 4.23 g | FC(C1=CC=C(C=N1)CC(=O)O)(F)F | C8H6F3NO2
reactant | methanol | CO | CH4O
reactant | sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | (6-Trifluoromethylpyridin-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=NC(=CC1)C(F)(F)F)=O | C10H10F3NO2
